US07435823B2
Step (b) Preparation of 6-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-naphthalen-2-ylamine
(6-Hydroxy-5-methyl-naphthalen-2-yl)-carbamic acid benzyl ester (Step a, 0.300 g, 0.9 mmol), 4-chloro-6,7-dimethoxy-quinoline (0.218 g, 0.9 mmol), K2CO3 (0.124 g, 0.9 mmol), and copper (4% by wt.) were added to a vial, then microwaved for 30 min at 120° C. with 150 watts of power (Powermax, CEM). The mixture was diluted with CH2Cl2 and 40 mL of 1N NaOH, then extracted the organics 3 times with CH2Cl2. The organics were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The crude was crystallized from CH2Cl2/Hexanes to give a light brown solid, which was the titled compound. MS (ESI, pos. ion) m/z: 361 (M+1). Mass Calc'd for C22H20N2O3: 360.15.

reactant | (6-Hydroxy-5-methyl-naphthalen-2-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC2=CC=C(C(=C2C=C1)C)O)=O | C19H17NO3
reactant | 4-chloro-6,7-dimethoxy-quinoline | 0.9 mmol, 0.218 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | K2CO3 | 0.9 mmol, 0.124 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N, 40 mL | [OH-].[Na+]
catalyst | copper | [Cu] | Cu
product | 6-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-naphthalen-2-ylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=C2C=CC(=CC2=CC1)N)C | C22H20N2O3
